US08686048B2
Intermediate 73: 2′-chlorobiphenyl-4-amine
The title compound (176 mg) was prepared from 4-bromoaniline (300 mg, 1.74 mmol) and 2-chlorophenylboronic acid (354 mg, 2.26 mmol) as a yellow solid.

reactant | 4-bromoaniline | 1.74 mmol, 300 mg | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | 2-chlorophenylboronic acid | 2.26 mmol, 354 mg | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
product | 2′-chlorobiphenyl-4-amine | 176 mg | ClC1=C(C=CC=C1)C1=CC=C(C=C1)N | C12H10ClN
